US07893056B2
A mixture of [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[(3S)-3,4-dimethyl-1-piperazinyl]-5-fluoro-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl][(phenylmethyl)oxy]formamide (0.219 g, 0.40 mmol) and Pd(C) (0.042 g) in MeOH (10 mL) was run under standard hydrogenation conditions as in General Procedure A, Part C, to provide [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[(3S)-3,4-dimethyl-1-piperazinyl]-5-fluoro-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide as a white solid (0.172 g, 94%). LCMS: (M+H)+=452.3.

reactant | [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[(3S)-3,4-dimethyl-1-piperazinyl]-5-fluoro-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl][(phenylmethyl)oxy]formamide | 0.40 mmol, 0.219 g | C1(CCCC1)C[C@H](CN(C=O)OCC1=CC=CC=C1)C(=O)NNC1=NC(=NC(=C1F)N1C[C@@H](N(CC1)C)C)C | C28H40FN7O3
solvent | MeOH | 10 mL | CO | CH4O
product | [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[(3S)-3,4-dimethyl-1-piperazinyl]-5-fluoro-2-methyl-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide | 0.172 g, 94% | C1(CCCC1)C[C@H](CN(C=O)O)C(=O)NNC1=NC(=NC(=C1F)N1C[C@@H](N(CC1)C)C)C | C21H34FN7O3
